US05672715
To a solution of 18 g of 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid (Ex. 2) in 400 mL of CH2Cl2 was added 10 g of oxalyl chloride and a few drops of DMF. After 20 minutes at room temperature, the reaction was heated to reflux for 2 hr and subsequently concd in vacuo. The resultant solid was dissolved in excess 2-propanol and heated overnight at reflux. The reaction mixture was concd, dissolved in ether, washed with 10% aq. NaOH and saturated brine and concd to give a solid. Recrystallization from cold hexanes gave 14 g of 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid, 1-methylethyl ester: mp 72° C.; 1HNMR (CDCl3) δ 1.36 (d, 6H, 6.4 Hz), 2.09 (quintet, 3H, 2.0 Hz), 5.25 (heptet, 1H, 6.0 Hz), 7.27 (d, 1H, 9.2 Hz), 7.94 (d, 1H, 7.6 Hz). Anal. Calcd for C16H15O2N2F4Cl: C, 50.74; H, 3.99; N, 7.40. Found: C, 50.85; H, 4.02; N, 7.41.

reactant | 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid | 18 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1C)C(F)(F)F)C | C13H9ClF4N2O2
reactant | oxalyl chloride | 10 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | 2-propanol | CC(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid, 1-methylethyl ester | 14 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=NN(C(=C1C)C(F)(F)F)C | C16H15ClF4N2O2
